US07994336B2
a) Synthesis of 3-chloro-3-(3,4-dimethyl-phenyl)-2-oxo-3-m-tolyl-propionic acid methyl ester
This compound was synthesised as 3-chloro-3-(4-fluoro-phenyl)-2-oxo-propionic acid methyl ester but using 3,4-dimethylbenzaldehyde instead 4-fluorobenzaldehyde.

reactant | 3-chloro-3-(4-fluoro-phenyl)-2-oxo-propionic acid methyl ester | COC(C(C(C1=CC=C(C=C1)F)Cl)=O)=O | C10H8ClFO3
reactant | 3,4-dimethylbenzaldehyde | CC=1C=C(C=O)C=CC1C | C9H10O
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 3-chloro-3-(3,4-dimethyl-phenyl)-2-oxo-3-m-tolyl-propionic acid methyl ester | COC(C(C(C=1C=C(C=CC1)C)(C1=CC(=C(C=C1)C)C)Cl)=O)=O | C19H19ClO3
